### PR TITLE
[Merged by Bors] - feat(SpecialFunctions/Log): Add extended exp

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
We define an extended version of the exponential from `EReal` to `ENNReal` and prove some properties in relation to the extended log.

- [x] Rename `ENNReal.lean` to `ENNRealLog.lean`
- [x] Add `ENNRealExp.lean`
- [x] Add `ENNRealLogExp.lean`

See [this](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Porting.20TopologicalEntropy.20into.20Mathlib/near/446665481) Zulip discussion.

Co-authored-by: @RemyDegenne @pitmonticone @D-Thomine 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealExp.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+  | ⊤ => ∞
+  | (x : ℝ) => ENNReal.ofReal (Real.exp x)
+
+@[simp] lemma exp_bot : exp ⊥ = 0 := rfl
+@[simp] lemma exp_zero : exp 0 = 1 := by simp [exp]
+@[simp] lemma exp_top : exp ⊤ = ∞ := rfl
+@[simp] lemma exp_coe (x : ℝ) : exp x = ENNReal.ofReal (Real.exp x) := rfl
+
+@[simp] lemma exp_eq_zero_iff {x : EReal} : exp x = 0 ↔ x = ⊥ := by
+  induction x using EReal.rec <;> simp [Real.exp_pos]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealExp.lean:48]:
```suggestion
  induction x <;> simp [Real.exp_pos]
```
Same thing below.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 2]
```diff
@@ -0,0 +1,170 @@
...
+/-!
+# Properties of the extended logarithm and exponential
+
+We prove that `log` and `exp` define an order isomorphism between `ℝ≥0∞` and `EReal`.
+
+## Main Definitions
+- `ENNReal.logOrderIso`: The order isomorphism between `ℝ≥0∞` and `EReal` defined by `log`
+and `exp`.
+- `ENNReal.log_homeomorph`: `log` as a homeomorphism.
+- `ENNReal.exp_homeomorph`: `exp` as a homeomorphism.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:19]:
```suggestion
- `EReal.exp_homeomorph`: `exp` as a homeomorphism.
```
Also, it feels weird to have the order_iso version of the log but not of the exponential.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+Authors: Damien Thomine, Pietro Monticone, Rémy Degenne, Lorenzo Luccioli
+-/
+import Mathlib.Analysis.SpecialFunctions.Log.ENNRealExp
+import Mathlib.Analysis.SpecialFunctions.Log.ENNRealLog
+import Mathlib.MeasureTheory.Constructions.BorelSpace.Basic
+
+/-!
+# Properties of the extended logarithm and exponential
+
+We prove that `log` and `exp` define an order isomorphism between `ℝ≥0∞` and `EReal`.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:13]:
```suggestion
We prove that `log` and `exp` define order isomorphisms between `ℝ≥0∞` and `EReal`.
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 4]
```diff
@@ -0,0 +1,170 @@
...
+
+@[simp] lemma logOrderIso_apply (x : ℝ≥0∞) : logOrderIso x = log x := rfl
+@[simp] lemma logOrderIso_symm_apply (x : EReal) : logOrderIso.symm x = exp x := rfl
+
+end OrderIso
+
+section Continuity
+
+/-- `log` as a homeomorphism. -/
+noncomputable def log_homeomorph : ℝ≥0∞ ≃ₜ EReal := logOrderIso.toHomeomorph
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:130]:
```suggestion
noncomputable def logHomeomorph : ℝ≥0∞ ≃ₜ EReal := logOrderIso.toHomeomorph
```
This is probably a better name, as this is a single unit, so no underscore in it. No need to deprecate the previous version as it was introduced very recently. Same thing for the exponential.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+@[measurability, fun_prop]
+lemma _root_.Measurable.ereal_exp {α : Type*} {_ : MeasurableSpace α}
+    {f : α → EReal} (hf : Measurable f) :
+    Measurable fun x ↦ exp (f x) := measurable_exp.comp hf
+
+end Measurability
+
+end ENNReal
+
+instance : TopologicalSpace.MetrizableSpace EReal :=
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:169]: Could you even register a polish space instance?

Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:168]: We are not sure how to do it. @LorenzoLuccioli

Comment (LorenzoLuccioli) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:169]: I just committed an attempt at adding the `PolishSpace` instance: 
https://github.com/leanprover-community/mathlib4/blob/84f997b1aafbf27bda3206e2ff634b5b633b1ff3/Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean#L242-L249

I was missing the instance `(uniformity EReal).IsCountablyGenerated` and I tried to prove it adding the `PseudoEMetricSpace` instance to `EReal`. The problem now is that Lean does not recognize that the `UniformSpace` structure induced by the `EDist` and the one induced by the topology are the same, do you know how to prove this?

Moreover I'm not sure whether my implementation of `EDist` satisfies the best practices, and I think it should be moved to some other file, I just left it here temporarily.

Comment (LorenzoLuccioli) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:169]: I solved the problem with the help of @RemyDegenne, proving that `ENNReal` is a `PolishSpace` since it is isomorphic to a real interval, then we recover the property for `EReal` through the new isomorphism with `ENNReal`. Since it was not needed anymore I erased the definition of `EDist`.

Now I just have to figure out where to position the `PolishSpace` instance for `ENNReal`. 
We cannot put it in the ENNReal [file](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/EReal.html), since it is imported by the file where `PolishSpace` is defined.
We could leave it here, but it seems weird to do that, since it does not really use anything about the log or exp.
`find_home` suggests to put it in the Polish spaces [file](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Polish.html), this would avoid any additional import, but in that file there are no instances of specific types to be Polish spaces.
Do you have any suggestions?

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean (hunk 2 above)
Comment (LorenzoLuccioli) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean]: `logOrderIso` actually contains the order isomorphism version of the exponential as the inverse function:
https://github.com/leanprover-community/mathlib4/blob/7ba4a1a7efa52aa3873d0ba28eb391c73280e7ea/Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean#L115-L120

Should we rename it to something like `logExpOrderIso` so it is more evident? Or do you mean that we should actually define an `expOrderIso` as a separate structure (or maybe as `logOrderIso.symm`)?

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:169]: I think it would make sense to put it in the file defining PolishSpace, since it can not be put earlier.

Note that if you register the PolishSpace instance, you can remove the metrizable one as it follows from it.

File: Mathlib/Topology/MetricSpace/Polish.lean [hunk 6]
```diff
@@ -229,6 +227,14 @@ theorem exists_polishSpace_forall_le {ι : Type*} [Countable ι] [t : Topologica
     .iInf ⟨none, Option.forall.2 ⟨le_rfl, hm⟩⟩ <| Option.forall.2 ⟨p, h'm⟩⟩
 #align polish_space.exists_polish_space_forall_le PolishSpace.exists_polishSpace_forall_le
 
+instance : PolishSpace ENNReal :=
+  ClosedEmbedding.polishSpace ⟨ENNReal.orderIsoUnitIntervalBirational.toHomeomorph.embedding,
+    ENNReal.orderIsoUnitIntervalBirational.range_eq ▸ isClosed_univ⟩
+
+instance : PolishSpace EReal :=
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Topology/MetricSpace/Polish.lean]: @sgouezel Which EReal file? Don't we get build cycle error?

[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Topology/MetricSpace/Polish.lean]: Ah, ok. That's perfect.

[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Topology/MetricSpace/Polish.lean]: Done. Thanks for your help.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 7]
```diff
@@ -0,0 +1,182 @@
...
+
+## Tags
+ENNReal, EReal, logarithm, exponential
+-/
+
+open EReal ENNReal
+section LogExp
+namespace EReal
+
+@[simp] lemma log_exp (x : EReal) : log (exp x) = x := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:35]:
```suggestion
@[simp] lemma EReal.log_exp (x : EReal) : log (exp x) = x := by
```
No need to open a namespace for a single lemma. Same thing for the next lemma.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 8]
```diff
@@ -0,0 +1,182 @@
...
+lemma exp_mul (x : EReal) (y : ℝ) : exp (x * y) = (exp x) ^ y := by
+  rw [← log_eq_iff, log_rpow, log_exp, log_exp, mul_comm]
+
+end EReal
+end Exp
+
+namespace ENNReal
+section OrderIso
+
+/-- `ENNReal.log` and its inverse `ENNReal.exp` are an order isomorphism between `ℝ≥0∞` and
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:119]:
```suggestion
/-- `ENNReal.log` and its inverse `EReal.exp` are an order isomorphism between `ℝ≥0∞` and
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 9]
```diff
@@ -0,0 +1,182 @@
...
+
+end Continuity
+
+section Measurability
+
+@[measurability, fun_prop]
+lemma measurable_log : Measurable log := continuous_log.measurable
+
+@[measurability, fun_prop]
+lemma measurable_exp : Measurable exp := continuous_exp.measurable
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:164]:
```suggestion
lemma _root_.EReal.measurable_exp : Measurable exp := continuous_exp.measurable
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 10]
```diff
@@ -0,0 +1,182 @@
...
+def logOrderIso : ℝ≥0∞ ≃o EReal where
+  toFun := log
+  invFun := exp
+  left_inv x := exp_log x
+  right_inv x := log_exp x
+  map_rel_iff' := by simp only [Equiv.coe_fn_mk, log_le_log_iff, forall_const]
+
+@[simp] lemma logOrderIso_apply (x : ℝ≥0∞) : logOrderIso x = log x := rfl
+@[simp] lemma logOrderIso_symm_apply (x : EReal) : logOrderIso.symm x = exp x := rfl
+
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:131]: could you also add `expOrderIso` in the right namespace? (Replacing the lemma `logOrderIso_symm_apply` with a lemma `logOrderIso_symm`, and adding suitable lemmas).

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 11]
```diff
@@ -0,0 +1,186 @@
...
+/-!
+# Properties of the extended logarithm and exponential
+
+We prove that `log` and `exp` define order isomorphisms between `ℝ≥0∞` and `EReal`.
+## Main Definitions
+- `ENNReal.logOrderIso`: The order isomorphism between `ℝ≥0∞` and `EReal` defined by `log`
+and `exp`.
+- `ENNReal.logHomeomorph`: `log` as a homeomorphism.
+- `EReal.expHomeomorph`: `exp` as a homeomorphism.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:19]: Mention `EReal.expOrderIso` around here?

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 12]
```diff
@@ -0,0 +1,186 @@
...
+
+## Main Results
+- `ENNReal.log_exp`, `ENNReal.exp_log`: `log` and `exp` are inverses of each other.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:22]:
```suggestion
- `EReal.log_exp`, `ENNReal.exp_log`: `log` and `exp` are inverses of each other.
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 13]
```diff
@@ -0,0 +1,186 @@
...
+- `ENNReal.exp_nmul`, `ENNReal.exp_mul`: `exp` satisfies the identities `exp (n * x) = (exp x) ^ n`
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:23]:
```suggestion
- `EReal.exp_nmul`, `EReal.exp_mul`: `exp` satisfies the identities `exp (n * x) = (exp x) ^ n`
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 14]
```diff
@@ -0,0 +1,186 @@
...
+and `exp (x * y) = (exp x) ^ y`.
+- `instMetrizableSpaceEReal`: `EReal` is a metrizable space.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:25]:
```suggestion
- `EReal` is a Polish space.
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 15]
```diff
@@ -0,0 +1,186 @@
...
+end LogExp
+
+section Log
+namespace ENNReal
+
+@[simp]
+lemma log_lt_log_iff {x y : ℝ≥0∞} : log x < log y ↔ x < y := by
+  refine ⟨fun h ↦ ?_, fun h ↦ log_strictMono h⟩
+  rw [← exp_log x, ← exp_log y]
+  exact exp_strictMono h
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:57]: This is true for any strict mono function, so it has to be a one-liner. Indeed:
```suggestion
lemma log_lt_log_iff {x y : ℝ≥0∞} : log x < log y ↔ x < y := log_strictMono.lt_iff_lt
```

But then this lemma and the lemmas that follow don't use the exponential, and should probably go in the file about log.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 16]
```diff
@@ -0,0 +1,186 @@
...
+
+@[simp] lemma log_lt_zero_iff {x : ℝ≥0∞} : log x < 0 ↔ x < 1 := log_one ▸ @log_lt_log_iff x 1
+
+@[simp] lemma zero_lt_log_iff {x : ℝ≥0∞} : 0 < log x ↔ 1 < x := log_one ▸ @log_lt_log_iff 1 x
+
+@[simp]
+lemma log_le_log_iff {x y : ℝ≥0∞} : log x ≤ log y ↔ x ≤ y := by
+  refine ⟨fun h ↦ ?_, fun h ↦ log_monotone h⟩
+  rw [← exp_log x, ← exp_log y]
+  exact exp_monotone h
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:71]:
```suggestion
lemma log_le_log_iff {x y : ℝ≥0∞} : log x ≤ log y ↔ x ≤ y := log_strictMono.le_iff_le
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 17]
```diff
@@ -0,0 +1,186 @@
...
+@[simp] lemma zero_le_log_iff {x : ℝ≥0∞} : 0 ≤ log x ↔ 1 ≤ x := log_one ▸ @log_le_log_iff 1 x
+
+end ENNReal
+end Log
+
+section Exp
+namespace EReal
+@[simp]
+lemma exp_lt_exp_iff {a b : EReal} : exp a < exp b ↔ a < b := by
+  conv_rhs => rw [← log_exp a, ← log_exp b, log_lt_log_iff]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:84]: instead of this, you can use `exp_strictMono`, like I did above. And then move this and the following lemmas to the file solely on exp.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean [hunk 18]
```diff
@@ -0,0 +1,140 @@
...
+section Measurability
+
+@[measurability, fun_prop]
+lemma measurable_log : Measurable log := continuous_log.measurable
+
+@[measurability, fun_prop]
+lemma _root_.EReal.measurable_exp : Measurable exp := continuous_exp.measurable
+
+@[measurability, fun_prop]
+lemma _root_.Measurable.ereal_log {α : Type*} {_ : MeasurableSpace α}
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLogExp.lean:125]:
```suggestion
lemma _root_.Measurable.ennreal_log {α : Type*} {_ : MeasurableSpace α}
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
